US04716178
1.1 g (0.010 mole) of glutaric anhydride, 3.0 g (0.010 mole) of the known compound 4-anilino-2,6-di-t-butylphenol, and 30 ml of 1,2-dimethoxyethane were combined and heated at reflux for 24 hours. The volume of the reaction was reduced by two-thirds under a stream of nitrogen, and the reaction was heated for another 24 hours. The remaining solvent was removed under vacuum on a rotary evaporator. The resulting solid was recrystallized twice from a mixture of benzene and hexane and then twice from a mixture of ethanol and water to give 0.6 g of off-white crystalline 5-(3,5-di-t-butyl-4-hydroxy-N-phenylanilino)- 5-oxopentanoic acid, m.p. 168°-170° C. Analysis: Calculated for C25H33NO4 : % C, 73.0; % H, 8.1; % N, 3.4: Found: % C, 73.2; % H, 8.0; % N, 3.0.

reactant | glutaric anhydride | 0.010 mole, 1.1 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | 4-anilino-2,6-di-t-butylphenol | N(C1=CC=CC=C1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C20H27NO
solvent | 1,2-dimethoxyethane | 30 ml | COCCOC | C4H10O2
product | 5-(3,5-di-t-butyl-4-hydroxy-N-phenylanilino)- 5-oxopentanoic acid | 0.6 g | C(C)(C)(C)C=1C=C(N(C2=CC=CC=C2)C(CCCC(=O)O)=O)C=C(C1O)C(C)(C)C | C25H33NO4
